US08557805B2
2-{2-[5-({6-[(Methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}ethanol
To a solution of ethyl{2-[5-({6-[(methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (290 mg) in tetrahydrofuran (10 mL) and methanol (15 mL) was added lithium tetrahydroborate (132 mg) at room temperature, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio), and recrystallized from ethyl acetate to give the title compound (142 mg, yield 53%) as white crystals.

reactant | ethyl{2-[5-({6-[(methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 290 mg | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)CS(=O)(=O)C)OC1CCOCC1)=O | C27H31N3O7S2
reactant | lithium tetrahydroborate | 132 mg | [BH4-].[Li+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 2-{2-[5-({6-[(Methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}ethanol | 142 mg, yield 53% | CS(=O)(=O)CC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CCO | C25H29N3O6S2
